US07816352B2
1-(2-Methoxyimino-2-p-tolyl-ethyl)-1H-quinolin-2-one (6)
To a suspension of 2-hydroxyquinoline (242 mg, 1.63 mmol) in DMF (5 mL) was added NaH (125 mg, 3.13 mmol). After 5 minutes of stirring at room temperature, 2-bromo-1-p-tolylethanone O-methyl oxime (400 mg, 1.65 mmol) was added and the mixture was stirred for 30 additional min. The mixture was poured on ice, extracted with Et2O, and dried over MgSO4. Purification by flash chromatography on silica gel (1% MeOH/CH2Cl2) gave a pure product in 28% yield: mp 129-132° C.; 1H NMR 400 MHz (DMSO-d6) δ 2.15 (s, 3H), 4.07 (s, 3H), 5.59 (s, 2H), 6.58 (d, 1H, J=9.2 Hz), 6.98 (d, 2H, J=7.0 Hz), 7.20 (m, 4H), 7.60 (s, 2H), 7.80 (d, 1H, J=8.8 Hz); Elem. anal. found: C, 74.12; H, 5.85; N, 9.00% (calcd for C19H18N2O2: C, 74.49; H, 5.92; N, 9.14%); MS (ESI) m/z 329.00 (MNa+).

reactant | 2-hydroxyquinoline | 1.63 mmol, 242 mg | OC1=NC2=CC=CC=C2C=C1 | C9H7NO
reactant | NaH | 3.13 mmol, 125 mg | [H-].[Na+]
reactant | 2-bromo-1-p-tolylethanone O-methyl oxime | 1.65 mmol, 400 mg | CON=C(CBr)C1=CC=C(C=C1)C | C10H12BrNO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-Methoxyimino-2-p-tolyl-ethyl)-1H-quinolin-2-one | 28% yield | CON=C(CN1C(C=CC2=CC=CC=C12)=O)C1=CC=C(C=C1)C | C19H18N2O2
